US05852031
A solution of 4.38 g (25.8 mmol) of (7R,9aS)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (preparation 1), 4.19 mL (38.7 mmol) of 2,5-difluoronitrobenzene, and 5.46 g (51.5 mmol) of sodium carbonate in 25 mL of DMSO was heated at 95° C. for 16 h. The mixture was cooled to room temperature, acidified with 1M HCl, and washed with ethyl ether (3×). The aqueous layer was made basic with conc. ammonium hydroxide and extracted with ethyl acetate (3×). The combined organic layers were washed with water (3×), dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 90:10 chloroform: methanol gave 6.19 g (78%) of (7R,9aS)-7-hydroxymethyl-2-(4-fluoro-2-nitrophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine.

reactant | (7R,9aS)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 25.8 mmol, 4.38 g | OC[C@@H]1CC[C@@H]2N(CCNC2)C1 | C9H18N2O
reactant | 2,5-difluoronitrobenzene | 38.7 mmol, 4.19 mL | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | sodium carbonate | 51.5 mmol, 5.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | (7R,9aS)-7-hydroxymethyl-2-(4-fluoro-2-nitrophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 6.19 g, 78% | OC[C@@H]1CC[C@@H]2N(CCN(C2)C2=C(C=C(C=C2)F)[N+](=O)[O-])C1 | C15H20FN3O3
